US06169090A
4-Bromo-7-methoxy-2-(4-methoxy-1-methylpiperidin-4-yl)furo[2,3-c]pyridine
4-Bromo-7-methoxy-2-(4-methoxypiperidin-4-yl)furo[2,3-c]pyridine (1.2 g), formic acid (0.76 ml) and formaldehyde (37% w/w aqueous solution) (0.66 g) were combined and heated to 95° C. for 24 hours. The reaction mixture was then diluted with 2N sodium hydroxide solution (100 ml) and extracted with ethyl acetate (3×50 ml). The combined extracts were then dried over magnesium sulphate and evaporated in vacuo to give the title compound (0.96 g) as a pale yellow oil.

reactant | 4-Bromo-7-methoxy-2-(4-methoxypiperidin-4-yl)furo[2,3-c]pyridine | 1.2 g | BrC1=C2C(=C(N=C1)OC)OC(=C2)C2(CCNCC2)OC | C14H17BrN2O3
reactant | formic acid | 0.76 ml | C(=O)O | CH2O2
reactant | formaldehyde | 0.66 g | C=O | CH2O
solvent | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
product | 4-Bromo-7-methoxy-2-(4-methoxy-1-methylpiperidin-4-yl)furo[2,3-c]pyridine | 0.96 g | BrC1=C2C(=C(N=C1)OC)OC(=C2)C2(CCN(CC2)C)OC | C15H19BrN2O3
